US06916822B2
1-(tert-Butoxycarbonyl)-4-[(2-hydroxymethylphenyl)amino]piperidine (716 mg) was dissolved in tetrahydrofuran (7 ml), added with phthalimide (349 mg), triphenylphosphine (736 mg) and diethyl azodicarboxylate (0.43 ml) and stirred at room temperature for 21 hours. The reaction mixture was added with water (10 ml) and extracted twice with dichloromethane (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=4:1) to obtain crude 1-(tert-butoxycarbonyl)-4-[(2-phthalimidylmethylphenyl)amino]piperidine (420 mg).

reactant | 1-(tert-Butoxycarbonyl)-4-[(2-hydroxymethylphenyl)amino]piperidine | 716 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)CO | C17H26N2O3
reactant | phthalimide | 349 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 736 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.43 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 1-(tert-butoxycarbonyl)-4-[(2-phthalimidylmethylphenyl)amino]piperidine | 420 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H29N3O4
